US08350046B2
Synthesis of N-(3′,4′,5′-trifluorobiphenyl-2-yl)-1,3-dimethyl-1H-pyrazole-4-carboxamide
79.1 g (0.494 mol, 99% pure) of 1,3-dimethyl-1H-pyrazole-4-carbonyl chloride were dissolved at 25° C. in 257.2 g of toluene. The solution was evacuated to 400 mbar and heated to 85° C. Subsequently, within 3 hours, 483.0 g (0.489 mol, 23% strength) of toluenic 3′,4′,5′-trifluorobiphenyl-2-ylamine solution were metered in and the reaction mixture was stirred for a further 1 hour. After venting and cooling to 70° C., the mixture was cooled to 20° C. with a cooling ramp of 5° C./h and stirred overnight. Subsequently, the mixture was cooled to 0° C., and the solids were filtered off, washed with cold toluene and dried at 80° C. under reduced pressure. The yield (without further processing of the mother liquor) was 155.4 g (92%).

reactant | 1,3-dimethyl-1H-pyrazole-4-carbonyl chloride | 0.494 mol, 79.1 g | CN1N=C(C(=C1)C(=O)Cl)C | C6H7ClN2O
reactant | 3′,4′,5′-trifluorobiphenyl-2-ylamine | 0.489 mol, 483.0 g | FC=1C=C(C=C(C1F)F)C1=C(C=CC=C1)N | C12H8F3N
solvent | toluene | 257.2 g | C1(=CC=CC=C1)C | C7H8
product | N-(3′,4′,5′-trifluorobiphenyl-2-yl)-1,3-dimethyl-1H-pyrazole-4-carboxamide | FC=1C=C(C=C(C1F)F)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C | C18H14F3N3O
